US05089633
Preparation of 7-(Boc-valyl)amino-4-chloro-3-propyloxyisocoumarin
7-(Boc-phenylalanyl)amino-4-chloro-3-propyloxyisocoumarin, 7-(benzoylalanylalanyl)amino-4-chloro-3-propyloxyisocoumarin, 7-(Boc-valyl)amino-4-chloro-3-ethoxyisocoumarin, 7-(Boc-alanyl)amino-4-chloro-3-ethoxyisocoumarin and 7-(Boc-alanyl)amino-4-chloro-3-(2-phenylethoxy)isocoumarin can be prepared by the same procedure.

reactant | 7-(Boc-phenylalanyl)amino-4-chloro-3-propyloxyisocoumarin | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC)Cl | C26H29ClN2O6
reactant | 7-(benzoylalanylalanyl)amino-4-chloro-3-propyloxyisocoumarin | C(C1=CC=CC=C1)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC)Cl | C25H26ClN3O6
reactant | 7-(Boc-valyl)amino-4-chloro-3-ethoxyisocoumarin | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCC)Cl | C21H27ClN2O6
reactant | 7-(Boc-alanyl)amino-4-chloro-3-ethoxyisocoumarin | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCC)Cl | C19H23ClN2O6
reactant | 7-(Boc-alanyl)amino-4-chloro-3-(2-phenylethoxy)isocoumarin | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC1=CC=CC=C1)Cl | C25H27ClN2O6
product | 7-(Boc-valyl)amino-4-chloro-3-propyloxyisocoumarin | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCC)Cl | C22H29ClN2O6
